US07011838B2
Using 0.80 g of 2-(3-hydroxypropyl)-2-(4-(trifluoromethyl)benzyl)-malononitrile, 8 ml of dichloromethane and 0.3 ml of Diethylaminosulfur trifluoride, and according to the process described in the Production Example 11, there was obtained 0.05 g of 2-(3-fluoropropyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (14)).

reactant | 2-(3-hydroxypropyl)-2-(4-(trifluoromethyl)benzyl)-malononitrile | 0.80 g | OCCCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F | C14H13F3N2O
reactant | Diethylaminosulfur trifluoride | 0.3 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-(3-fluoropropyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.05 g, Yield: 5% | FCCCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F | C14H12F4N2
